### PR TITLE
[Merged by Bors] - feat(CategoryTheory/SingleObj): construct equivalence of `SingleObj` categories from a monoid isomorphism

### PR DESCRIPTION
**Pull request by chrisflav**
Construct `SingleObj M ≌ SingleObj N` from `M ≃* N`.

---

Note that this definition can't be moved up into the first `namespace SingleObj` block, because the `MonoidHom.toFunctor` needs to come first.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/SingleObj.lean [hunk 1]
```diff
@@ -212,6 +212,26 @@ theorem id_toFunctor : (id M).toFunctor = 𝟭 _ :=
...
+  apply CategoryTheory.Equivalence.mk
+  show _ ≅ MonoidHom.toFunctor e.toMonoidHom ⋙ MonoidHom.toFunctor e.symm.toMonoidHom
+  dsimp [MonoidHom.toFunctor, SingleObj.mapHom, Functor.comp]
+  apply eqToIso
+  simp only [MulEquiv.symm_apply_apply]
+  rfl
+  dsimp [MonoidHom.toFunctor, SingleObj.mapHom, Functor.comp]
+  apply eqToIso
+  simp only [MulEquiv.apply_symm_apply]
+  rfl
```
Comment (joelriou) [inline Mathlib/CategoryTheory/SingleObj.lean:231]: It would be more readable as follows:
```suggestion
def toSingleObjEquiv (e : M ≃* N) : SingleObj M ≌ SingleObj N where
  functor := e.toMonoidHom.toFunctor
  inverse := e.symm.toMonoidHom.toFunctor
  unitIso := eqToIso (by
    rw [← MonoidHom.comp_toFunctor, ← MonoidHom.id_toFunctor]
    congr 1
    aesop_cat)
  counitIso := eqToIso (by
    rw [← MonoidHom.comp_toFunctor, ← MonoidHom.id_toFunctor]
    congr 1
    aesop_cat)
```

**Review by joelriou — CHANGES_REQUESTED** [review]

**Comment by joelriou** [comment]
Thanks!

bors merge
